US04298748
The procedure described in Example 5 is followed except that 176 parts of isobutyric acid and 162.8 parts of 1,2-diaminopropane are employed. 201 parts of 2-isopropyl-4(5)-methylimidazoline (80% of theory, based on isobutyric acid employed) of boiling point 105°-106° C./32 mbar are obtained.

reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | 1,2-diaminopropane | NCC(C)N | C3H10N2
product | 2-isopropyl-4(5)-methylimidazoline | 80% | C(C)(C)C=1NC[C@@H](N1)C | C7H14N2
